* Z:\home\sebastian\FIUBA-2do Cuatrimestre\Analisis de Circuitos\Analisis-de-Circuitos\Simulaciones\Ejemplo.asc
R1 N003 0 4
R2 N002 N001 4
R3 N003 N001 2
R4 N002 N003 8
I1 N002 0 2*I2
I2 0 N001 3
.op
.backanno
.end
